US04581448
4-Chloro-2,7-dimethylthieno[3,4-b]pyridine-5-carboxaldehyde is reacted with hydroxylamine hydrochloride and phosphoryl chloride by standard procedures to give 4-chloro-2,7-dimethylthieno[3,4-b]pyridine-5-carbonitrile.

reactant | 4-Chloro-2,7-dimethylthieno[3,4-b]pyridine-5-carboxaldehyde | ClC=1C=2C(N=C(C1)C)=C(SC2C=O)C | C10H8ClNOS
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,7-dimethylthieno[3,4-b]pyridine-5-carbonitrile | ClC=1C=2C(N=C(C1)C)=C(SC2C#N)C | C10H7ClN2S
